US03976633
When propyl carbamate is reacted with oxalyl chloride as described in the procedure of Example 13, propoxycarbonyl isocyanate is obtained.

reactant | propyl carbamate | C(N)(OCCC)=O | C4H9NO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | propoxycarbonyl isocyanate | C(CC)OC(=O)N=C=O | C5H7NO3
